US07153997B2
A suspension of benzyltrimethylamonium tribromide (2.2 g, 5.63 mmol) and CaCO3 (0.28 g, 2.82 mmol) was stirred for 2 hr at 20° C. in a 1:1 MeOH/CH2Cl2 solution (10 mL) containing 3,5-dichloro-2-methyl-4-(4-hydroxy-3-isopropylphenoxy)-benzoic acid (1.0 g, 2.82 mmol). Once HPLC analysis indicated that conversion to the desired monobrominated phenol was optimal, the reaction was quenched by addition of 15 mL of 1N HCl. After removal of the organic solvents under vacuum using a rotary evaporator, the aqueous suspension was extracted twice with EtOAc. After drying the combined EtOAc layers over MgSO4, the salts were filtered prior to removal of the EtOAc under vacuum. The resulting residue after purification by gradient elution from a reverse phase C18 column employing MeOH/H2O containing 0.1% TFA yielded 3,5-dichloro-2-methyl-4-(3-bromo-4-hydroxy-5-isopropylphenoxy)benzoic acid (400 mg).

reactant | benzyltrimethylamonium tribromide | 5.63 mmol, 2.2 g | [Br-].[Br-].[Br-].C(C1=CC=CC=C1)[N+](C)(C)C.C(C1=CC=CC=C1)[N+](C)(C)C.C(C1=CC=CC=C1)[N+](C)(C)C
reactant | CaCO3 | 2.82 mmol, 0.28 g | C(=O)([O-])[O-].[Ca+2]
reactant | 3,5-dichloro-2-methyl-4-(4-hydroxy-3-isopropylphenoxy)-benzoic acid | 2.82 mmol, 1.0 g | ClC=1C(=C(C(=O)O)C=C(C1OC1=CC(=C(C=C1)O)C(C)C)Cl)C | C17H16Cl2O4
solvent | MeOH CH2Cl2 | 10 mL | CO.C(Cl)Cl
product | 3,5-dichloro-2-methyl-4-(3-bromo-4-hydroxy-5-isopropylphenoxy)benzoic acid | 400 mg | ClC=1C(=C(C(=O)O)C=C(C1OC1=CC(=C(C(=C1)C(C)C)O)Br)Cl)C | C17H15BrCl2O4
